datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C)[O-:10])CCCCCC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21][H])([S][H])[S]C.[Cl-]>>[Cl-].CC[S:10][H].[H][O+:21]=[C:20]([S][H])[S]C 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C([H])[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
"[O:10]([Na])C(CCC)C([H])C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C(CCC)C(C)C1C>>[O-:10]C(CCC)C(C)C([C:20](OCC)=[O:21])C 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([O]C)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([O]C)[NH][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)CC>>CCC1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OCCCCCC)[H])[H]>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OCCCCCC)[H])[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C1=CC=CC=C1)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC1C(O[C:20](N1CC)([O-:10])[O:21]CC)C>>CC1C(O[C:20](=[O:10])N1CC)C.[O-:21]CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"CN([C:20](=[O:10])OC1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1>>CN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C7=CC=CC=C7 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC)CC.[O-:21]C1=CC=CC=C1>>CCCCCCN([C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1)CC 21=20;20,10=10"
"[H][S+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][S:10]C([H])C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
